Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE pain and swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of RLE DVT ___, placed on
rivaroxaban), depression/anxiety, GERD who is referred from his
PCP to the ___ due to worsening edema and pain in the RLE.

3 days ago, he noticed more swelling in the right calf and foot
and a recurrence of the same pain that he had at the time of
diagnosis of his DVT in ___. He denies shortness of breath
but endorses mild substernal and left-sided chest pressure,
sometimes stabbing that began 2 days ago.  It is not worse with
exertion. It started when he was sitting in church. Episodes 
come
and go within seconds. No radiation. No lightheadedness, no
fainting spell, no sweating. Sometimes it is a stabbing pain. 
Has
had maybe 5 episodes. Not positional. Never had anything like
this before. No prior history of MI or ACS. 

He states that since his clot, he has faithfully been taking his
rivaroxaban. He denies any missed in the past month. He is a
___ and spends many hours sitting in a car every day. 

- In the ___, initial vitals were: 97.8 73 155/93 18 100% RA   
 
- Exam was notable for: Extremities: ___ edema, right slightly
greater than left. No erythema. No TTP.
 
- Labs were notable for:  
CBC wnl BMP wnl 
Troponin T <0.01

- Studies were notable for:  
RLE Doppler: There is nonocclusive DVT in the distal right
femoral vein extending to the right popliteal vein.

CTA chest: 1. No evidence of pulmonary embolism or acute aortic
abnormality. 2. Left anterior descending coronary artery
calcifications. 3. 12 mm right thyroid hypodense nodule for 
which
no dedicated imaging follow-up is needed per ACR 
recommendations.

CXR: No acute cardiopulmonary abnormality. 
  
- No consults

- Patient was given:  
Heparin IV bolus 7400 with 1650 units/hr gtt 

On arrival to the floor, he feels great now. No pain in the
chest, no sob, no coughing. RLE pain is gone. Right now, RLE 
less
swollen. 
 
Past Medical History:
GASTROESOPHAGEAL REFLUX                                          

HELICOBACTER PYLORI                                             
SHOULDER PAIN                                                   
DEPRESSION                                                       

BACK PAIN                                                       
ANXIETY                                                         
INSOMNIA                                                         

DEEP VENOUS THROMBOSIS  
 
Social History:
___
Family History:
Son - ___ syndrome
Father - renal cancer 
Mother - breast cancer, DM, thrombosis
___ - thrombosis 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: reviewed in ___ 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 


NECK: supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.    
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: RLE mild pitting edema <0.5cm to lower knee, trace
edema in LLE
SKIN: Warm.  No rashes.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.  

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 97.8 119 / 81 61 18 94 Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: supple
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.    
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: WWP, no c/c/e
SKIN: Warm.  No rashes.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.  
 
Pertinent Results:
ADMISSION LABS:
===============

___ 06:18PM BLOOD WBC-9.8 RBC-4.58* Hgb-13.8 Hct-41.1 
MCV-90 MCH-30.1 MCHC-33.6 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:18PM BLOOD Neuts-57.4 ___ Monos-8.7 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-5.62 AbsLymp-3.04 AbsMono-0.85* 
AbsEos-0.17 AbsBaso-0.05
___ 06:18PM BLOOD Plt ___
___ 03:49AM BLOOD ___ PTT-81.3* ___
___ 06:18PM BLOOD Glucose-105* UreaN-13 Creat-0.9 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-10
___ 06:18PM BLOOD cTropnT-<0.01
___ 03:49AM BLOOD cTropnT-<0.01
___ 03:49AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.1

IMAGING:
========
CXR ___:
FINDINGS:  
  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

LENIs ___:
FINDINGS:  
  
There is echogenic material within the distal right femoral vein 
extending to  the right popliteal vein with a small amount of 
color flow.  There is normal compressibility, color flow, and 
spectral doppler of the right common femoral, proximal and mid 
right femoral veins.  Normal color flow is demonstrated in the 
posterior tibial and peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION:  
  
Nonocclusive deep venous thrombosis in the distal right femoral 
vein extending to the right popliteal vein. 

CTA ___
FINDINGS:  
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or 
intramural hematoma.  Coronary artery calcifications are seen in 
the left 
anterior descending coronary artery.  The heart, pericardium, 
and great 
vessels are otherwise unremarkable.  No pericardial effusion is 
seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  Calcified left hilar lymph node 
suggests prior granulomatous disease.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: There is mild bibasilar atelectasis.  Otherwise, 
lungs are 
clear without masses or areas of parenchymal opacification.  The 
airways are patent to the level of the segmental bronchi 
bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck 
demonstrate a 12 mm right thyroid hypodense nodule. 
  
ABDOMEN:  Included portion of the upper abdomen demonstrates 
incidental 
replaced left hepatic artery arising from the left gastric 
artery. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION: 
  
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Left anterior descending coronary artery calcifications. 
3. 12 mm right thyroid hypodense nodule for which no dedicated 
imaging 
follow-up is needed per ACR recommendations. 
  
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ College of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under age ___ or less than 1.5 cm in patients age ___ or 
___. 
  
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or invasion of local tissues by the thyroid nodule. 

  
___, et al, "Managing Incidental Thyroid Nodules Detected on 
Imaging: White Paper of the ACR Incidental Findings Committee". 
J ___ ___ 12:143-150. 

DISCHARGE LABS:
===============
___ 05:26AM BLOOD WBC-8.8 RBC-4.76 Hgb-14.0 Hct-42.7 MCV-90 
MCH-29.4 MCHC-32.8 RDW-12.3 RDWSD-40.2 Plt ___
___ 05:26AM BLOOD Plt ___
___ 05:26AM BLOOD ___ PTT-77.6* ___
___ 05:26AM BLOOD Glucose-104* UreaN-13 Creat-0.9 Na-140 
K-4.1 Cl-104 HCO3-28 AnGap-8*
___ 05:26AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.___ man with a history of RLE DVT ___, placed on 
rivaroxaban), depression/anxiety, GERD who is referred from his 
PCP to the ___ due to worsening edema and pain in the RLE 
consistent with likely new RLE DVT and no evidence of PE. 

ACUTE/ACTIVE ISSUES: 
==================== 
#RLE DVT: Patient reports a 3 day history of worsening RLE edema 
in addition to new onset pain. In ___, he had a RLE DVT and 
was placed on rivaroxaban. His original DVT was thought to be 
provoked in the setting of long periods of prolonged sitting 
during his work as a ___. Per the patient, his RLE 
symptoms improved at that time. However, he has continued to 
have intermittent pain and swelling in his RLE which brings into 
question whether he was ever therapeutically anticoagulated on 
rivaroxaban. RLE doppler on ___ on admission revealed: 
nonocclusive deep venous thrombosis in the distal right femoral 
vein extending to the right popliteal vein. Prior doppler in 
___ revealed: popliteal, superficial femoral and visualized 
common femoral vein DVT. He reported taking rivaroxaban on an 
empty stomach in the AM and does not eat until much later. 
Consideration was given as to whether this represented a true 
failure of rivaroxaban vs decreased absorption due to not taking 
with food. Unclear as to whether this is clinically relevant as 
it appears that even on an empty stomach he should absorb 
roughly 80% of the medication. Family history notably positive 
for DVT in mother and ___. Per history, mother had DVT likely in 
setting of breast cancer surgery. No family history of 
coagulation disorders. When questioned further regarding whether 
it is possible that he missed any doses of medication, the 
patient is adamant that he takes his Xarelto daily though notes 
it is feasible that he missed a single day here or there. Some 
initial concern for an underlying thrombophilic condition and so 
APLS workup was started. Notably w/ negative cardiolipin 
antibodies on admission w/ beta-2-glycoprotein antibodies 
pending at the time of discharge. Occult malignancy also 
considered though no obvious source identified. His symptoms 
improved quickly on a heparin gtt. Due to concern that this 
represented a failure of anticoagulation on xarelto, the patient 
was transitioned to lovenox as a bridge to coumadin. Patient 
given 5 mg coumadin on the day of discharge. INR on the day of 
discharge 1.1 (goal ___. He was discharged with instructions to 
take 5 mg coumadin on ___ and to have his INR checked at his 
PCP office in ___. 

#Chest pain: Patient reported intermittent, substernal chest 
pressure which began about 2 days prior to admission. His CXR 
was unremarkable and CTA chest without evidence of PE or 
parenchymal/pleural pathology that could explain chest pain. 
Pericardium also unremarkable. No bony fracture. EKG without 
concerning ST-T changes and initial troponin unremarkable, less 
concerning for ACS. Less likely GERD given history. Not 
reproducible on palpation chest wall, less likely MSK. Unclear 
what chest pain was from, although less concerning for ischemia 
as episodes only lasts for seconds and is non-exertional. 
Reassuringly, this pain has completely resolved.

TRANSITIONAL ISSUES:
====================
[]INR 1.1 on the day of discharge. Patient to be discharged on 5 
mg daily with instructions to have repeat INR drawn at his PCP's 
office on ___. Dosing to be adjusted by his PCP.
[]Patient discharged on a lovenox ___ mg SC Q12H as a bridge to 
coumadin. He should continue this until his INR has been 
therapeutic (goal ___ for ___.
[]Would consider workup of thrombophilic condition or occult 
malignancy as an outpatient. Patient to follow up with ___ 
Heme/Onc.
[]Could consider outpatient stress testing to evaluate patient's 
reported chest pain prior to this admission. Suspicion that this 
pain represented cardiac ischemia was low given unremarkable EKG 
and negative cardiac biomarkers.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin 1 mg 5 tablet(s) by mouth once a day Disp #*180 
Tablet Refills:*0 
3.Outpatient Lab Work
___.___ Acute DVT
Please check INR on ___.
Fax results to Dr. ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having pain 
and swelling in your right leg which was concerning for a blood 
clot.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had an ultrasound which showed a new blood clot in your 
right leg.
- You were initially placed on a medication called heparin to 
thin your blood. This was transitioned to a couple of other 
medications, one called lovenox and another called coumadin 
(warfarin). You will inject yourself with lovenox until your INR 
(which tells us whether the coumadin level is correct) reaches a 
therapeutic level. Your INR level will be monitored, and your 
dose of coumadin will be adjusted based on that level.
- You will follow up with ___ Heme/Onc for ongoing management 
of your anticoagulation and to workup potential causes of your 
recurrent blood clots.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___